US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.05 g, 0.15 mmol), 4-fluorophenylboronic acid (0.025 g, 0.18 mmol), Pd(dba)2 (0.02 g, 0.035 mmol), X-Phos (0.02 g, 0.042 mmol) and Na2CO3 (0.032 g, 0.3 mmol) in dioxane/H2O (20 mL/2 mL) was stirred at 95° C. for 18 h under N2 atmosphere. The solvent was removed in vacuo and the residue purified by chromatography (silica gel, petroleum ether/ethyl acetate 3:1) to give 6-(4-fluorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.025 g, 43%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.85 (s, 1H), 8.03-7.98 (m, 3H), 7.63 (s, 1H), 7.48 (t, 1H, J=7.9 Hz), 7.30-7.24 (m, 2H), 6.34 (d, 1H, J=7.8 Hz), 6.13 (d, 1H, J=8.1 Hz), 4.30 (brs, 1H), 3.65-3.33 (m, 2H), 2.18-2.05 (m, 3H), 1.81 (brs, 1H), 1.24 (d, 3H, J=6.0 Hz) LC/MS: 389 [M+H]+, tR=2.03 min. HPLC: 95.87% at 214 nm, 99.64% at 254 nm, tR=4.79 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.15 mmol, 0.05 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 4-fluorophenylboronic acid | 0.18 mmol, 0.025 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | X-Phos | 0.042 mmol, 0.02 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.3 mmol, 0.032 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
catalyst | Pd(dba)2 | 0.035 mmol, 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 6-(4-fluorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.025 g, 43% | FC1=CC=C(C=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C22H21FN6
